US04547501
(b) Preparation of 4,8-dichloro-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 20 g. (0.087 mole) of 2,6-dichloro-3-hydrazinoquinoxaline and 160 ml. (0.87 mole) of triethyl orthoacetate was heated with mechanical stirring under a dry nitrogen atmosphere in a preheated oil bath at 100° C. for a period of 20 hours to give a yellow suspension. The resulting mixture was cooled to room temperature and filtered, and the recovered solid product was subsequently washed with ethanol and air-dried to constant weight to ultimately afford 10.2 g. (46%) of pure 4,8-dichloro-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. >280° C. Mass Spectrum: m/e, 254/252 (P+).

reactant | 2,6-dichloro-3-hydrazinoquinoxaline | 0.087 mole | ClC1=NC2=CC=C(C=C2N=C1NN)Cl | C8H6Cl2N4
reactant | triethyl orthoacetate | 0.87 mole | C(C)(OCC)(OCC)OCC | C8H18O3
product | 4,8-dichloro-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC(=CC=C3N1)Cl)C(=NN2)C | C10H6Cl2N4
